US06008213
a) Ethyl (±)-10,11-dihydro-3-[[[(1H-benzimidazol-2-yl)methyl]methylamino]carbonyl]5H-dibenzo[a,d]cycloheptene-10-acetate
EDC (202.4 mg, 1.06 mmol) was added all at once to a solution of ethyl (±)-10,11-dihydro-3-carboxy-5H-dibenzo[a,d]cycloheptene-10-acetate (285.6 mg, 0.88 mmol), 2-(methylamino)methylbenzimidazole dihydrochloride (247.2 mg, 1.06 mmol), HOBt.H2O (142.7 mg, 1.06 mmol), and diisopropylethylamine (0.61 mL, 3.52 mmol) in anhydrous DMF (4.4 mL) at RT. The reaction was stirred at RT for 16.5 h, then was concentrated on the rotavap (high vacuum). The residue was reconcentrated from xylenes, then was dissolved in H2O (5 mL). EtOAc extraction (2×5 mL), drying (MgSO4), concentration, and chromatography (silica gel, 5% MeOH in 1:1 EtOAc/CHCl3) gave the title compound as a faintly yellow foam (389.2 mg, 95%): TLC Rf (10% MeOH in 1:1 EtOAc/CHCl3) 0.60; 1H NMR (400 MHz, CDCl3) δ 7.70-7.80 (m, 1H), 7.40-7.50 (m, 1H), 7.35 (s, 1H), 7.21-7.32 (m, 3H), 7.04-7.21 (m, 5H), 4.76-4.88 (m, 2H), 4.36 (d, J=15.2 Hz, 1H), 4.18 (q, J=7.1 Hz, 2H), 3.90 (d, J=15.2 Hz, 1H), 3.82-3.95 (m, 1H), 3.38 (dd, J=15.4, 4.0 Hz, 1H), 3.11 (s, 3H), 3.03 (dd, J=15.4, 9.5 Hz, 1H), 2.69 (dd, J=15.8, 4.8 Hz, 1H), 2.52 (dd, J=15.8, 9.6 Hz, 1H), 1.27 (t, J=7.1 Hz, 3H); FTIR (CCl4) 2700-3470 (broad), 1735, 1629 (shoulder), 1617, 1484, 1454, 1422, 1397, 1271, 1180, 1157 cm-1 ; MS (ES) m/e 468.2 (M+H)+.

reactant | EDC | 1.06 mmol, 202.4 mg
reactant | ethyl (±)-10,11-dihydro-3-carboxy-5H-dibenzo[a,d]cycloheptene-10-acetate | 0.88 mmol, 285.6 mg | C(=O)(O)C=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C20H20O4
reactant | 2-(methylamino)methylbenzimidazole dihydrochloride | 1.06 mmol, 247.2 mg | Cl.Cl.CNCC=1NC2=C(N1)C=CC=C2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 1.06 mmol, 142.7 mg | O | H2O
reactant | diisopropylethylamine | 3.52 mmol, 0.61 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 4.4 mL | CN(C)C=O | C3H7NO
product | Ethyl (±)-10,11-dihydro-3-[[[(1H-benzimidazol-2-yl)methyl]methylamino]carbonyl]5H-dibenzo[a,d]cycloheptene-10-acetate | N1C(=NC2=C1C=CC=C2)CN(C(=O)C=2C=CC1=C(CC3=C(C(C1)CC(=O)OCC)C=CC=C3)C2)C | C29H29N3O3
